US06211245B1
(R)-3-(3-Fluorophenoxy)-3-phenylpropylamine (Compound 185)
A solution of (R)-3-(3-fluorophenoxy)-3-phenylpropyl chloride (0.971 g, 3.96 mmol), conc. NH4OH (30 mL), and EtOH (20 mL) were shaken at 90° C. on a Parr' apparatus (50-90 psig) for 18 h. The mixture was then evaporated under vacuum and the residue was dissolved in Et2O (100 mL) and washed with H2O (2×25 mL). The organic layer was dried (anh. Na2SO4), filtered, and evaporated under vacuum to provide a yellow oil. This material was then dissolved in EtOAc (50 mL) and filtered. A solution of maleic acid (0.272 g, 2.6 mmol, 0.93 equiv) dissolved in hot EtOAc (5 mL) was added to precipitate the maleate salt (519 mg, 53.5%) as a white solid: TLC Rf 0.25 (1% MeOH-CHCl3); GC, tr 7.37 min; MS, m/z 245 (M+). The synthesis of Compound 187 was accomplished as follows.

reactant | (R)-3-(3-fluorophenoxy)-3-phenylpropyl chloride | 3.96 mmol, 0.971 g | FC=1C=C(O[C@H](CCCl)C2=CC=CC=C2)C=CC1 | C15H14ClFO
reactant | NH4OH | 30 mL | [NH4+].[OH-]
reactant | EtOH | 20 mL | CCO | C2H6O
reactant | maleic acid | 2.6 mmol, 0.272 g, 0.93 equiv | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (R)-3-(3-Fluorophenoxy)-3-phenylpropylamine | FC=1C=C(O[C@H](CCN)C2=CC=CC=C2)C=CC1 | C15H16FNO
